US07732603B2
The title A compound, methyl 3-[5-(t-butyl-dimethylsilanyloxymethyl)-imidazole-1-yl]-3-(4-cyanophenyl)-propionate (0.98 g, 2.46 mmol) and p-toluenesulfonic acid (0.55 g, 2.9 mmol) are stirred in MeOH (10 mL) at RT for 24 h. The reaction mixture is evaporated to an oil and partitioned between EtOAc and aqueous saturated sodium bicarbonate. The combined organic phases are dried over anhydrous sodium sulfate and removal of the solvent in vacuo yields methyl 3-[5-(hydroxymethyl)-imidazol-1-yl]-3-(4-cyano-phenyl)-propionate as an oil: 1H-NMR (CDCl3) δ 7.65 (2H, d, J=8.4), 7.62 (1H, s), 7.31 (2H, d, J=8.4), 6.98 (1H, s), 6.05 (1H, dd, J=9.2, 6.2), 4.62 (1H, d, J=13.5), 4.47 (1H, d, J=13.5), 3.67 (3H, s), 3.36 (1H, dd, J=16.5, 9.2), 3.21 (1H, dd, J=16.5, 6.2); e/z (ES) 286 (M+1, 100%).

reactant | methyl 3-[5-(t-butyl-dimethylsilanyloxymethyl)-imidazole-1-yl]-3-(4-cyanophenyl)-propionate | 2.46 mmol, 0.98 g | [Si](C)(C)(C(C)(C)C)OCC1=CN=CN1C(CC(=O)OC)C1=CC=C(C=C1)C#N | C21H29N3O3Si
reactant | p-toluenesulfonic acid | 2.9 mmol, 0.55 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | MeOH | 10 mL | CO | CH4O
product | methyl 3-[5-(hydroxymethyl)-imidazol-1-yl]-3-(4-cyano-phenyl)-propionate | OCC1=CN=CN1C(CC(=O)OC)C1=CC=C(C=C1)C#N | C15H15N3O3
